US05081238
5.91 Grams (50 mmol) of methyl 3-hydroxybutyrate and 3.74 g (55 mmol) of imidazole were dissolved in 20 ml of DMF and thereto 8.29 g (55 mmol) of t-butyldimethylsilylchloride was added in several portions. After stirring the mixture at room temperature for 30 minutes, ice water was added and extraction with diethyl ether was conducted three times. The extract was washed with a saturated solution of NaCl, dried with anhydrous magnesium sulfate and concentrated under reduced pressure. The concentrate was distilled (62° to 68° C./5 mmHg) to give 10.51 g of methyl (-)-3-t-butyldimethylsilyloxybutyrate (yield: 91%).

reactant | methyl 3-hydroxybutyrate | 50 mmol | OC(CC(=O)OC)C | C5H10O3
reactant | imidazole | 55 mmol, 3.74 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilylchloride | 55 mmol, 8.29 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | methyl (-)-3-t-butyldimethylsilyloxybutyrate | 10.51 g, yield: 91% | [Si](C)(C)(C(C)(C)C)OC(CC(=O)OC)C | C11H24O3Si
